US08685977B2
4-((3,4-dichlorophenyl)(hydroxy)methyl)-3-methoxybenzamide
To a solution of 4-((3,4-dichlorophenyl)(hydroxy)methyl)-3-methoxybenzonitrile (165 mg, 0.535 mmol) in DMSO (3 mL) was added K2CO3 (222 mg, 1.60 mmol) followed by 30% H2O2 (1210 mg, 10.7 mmol) and the reaction was stirred at room temperature. After 45 minutes the product was purified without workup by direct injection onto a reverse phase column (Biotage C18-silica 12 g) eluting with 100:0:0.1 H2O:MeCN:HCO2H, to 0:100:0.1. The title compound was collected as a white solid (142 mg, 81%).

reactant | 4-((3,4-dichlorophenyl)(hydroxy)methyl)-3-methoxybenzonitrile | 0.535 mmol, 165 mg | ClC=1C=C(C=CC1Cl)C(C1=C(C=C(C#N)C=C1)OC)O | C15H11Cl2NO2
reactant | K2CO3 | 1.60 mmol, 222 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O2 | 10.7 mmol, 1210 mg | OO | H2O2
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 4-((3,4-dichlorophenyl)(hydroxy)methyl)-3-methoxybenzamide | ClC=1C=C(C=CC1Cl)C(C1=C(C=C(C(=O)N)C=C1)OC)O | C15H13Cl2NO3
